US08022223B2
Step A: Preparation of methyl 4-bromo-2-methoxy-2-methylpent-4-enoate.
A 500 mL round-bottom flask was charged with diisopropylamine (12.89 mL, 92.00 mmol) and dry THF (100 mL) and cooled to −78° C. Butyllithium (2.5 M in hexanes) (36.80 mL, 92.00 mmol) was added dropwise over 20 minutes and the mixture was agitated for additional 30 minutes. Methyl 2-methoxypropanoate (10.35 g, 87.61 mmol) was added dropwise over 20 minutes and the mixture was agitated for 30 minutes. 2,3-Dibromopropene (10.70 mL, 87.61 mmol) was added dropwise over 20 minutes, the mixture was agitated for 30 minutes and then allowed to warm up to ambient temperature and agitated for additional 2 hours. The reaction was quenched with saturated ammonium chloride solution and extracted twice with ether. Extracts were washed with sodium bicarbonate solution, brine, dried and evaporated to give the title compound (22.7 g, 98.4% yield) as pale yellow oil.

reactant | diisopropylamine | 92.00 mmol, 12.89 mL | C(C)(C)NC(C)C | C6H15N
reactant | Butyllithium | 92.00 mmol, 2.5 M, 36.80 mL | C(CCC)[Li]
reactant | Methyl 2-methoxypropanoate | 87.61 mmol, 10.35 g | COC(C(=O)OC)C | C5H10O3
reactant | 2,3-Dibromopropene | 87.61 mmol, 10.70 mL | BrC(=C)CBr | C3H4Br2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | methyl 4-bromo-2-methoxy-2-methylpent-4-enoate | 22.7 g, 98.4% yield | BrC(CC(C(=O)OC)(C)OC)=C | C8H13BrO3
